US03983133
A mixture of 9.5 parts of α-(aminomethyl)-m-chlorobenzyl alcohol, 7.15 parts of 2-(nitramino)-2-imidazoline and 40 parts of xylene is stirred in an oil-bath at 150°-160°C. while a great part of the xylene is distilled off. The resulting residue is diluted with a few parts of acetone and the product is allowed to crystallize. It is filtered off and crystallized from 4-methyl-2-pentanone, yielding m-chloro-α-(2-imidazolin-2-ylaminomethy)benzyl alcohol; m.p. 108.5°C.

reactant | α-(aminomethyl)-m-chlorobenzyl alcohol | NCC(C1=CC(=CC=C1)Cl)O | C8H10ClNO
reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | m-chloro-α-(2-imidazolin-2-ylaminomethy)benzyl alcohol | ClC=1C=C(C(CNC=2NCCN2)O)C=CC1 | C11H14ClN3O
